US08461328B2
Trans [4-(2-methanesulfonyl-vinyl)-cyclohexyl]-carbamic acid tert-butyl ester (1.00 g, 3.30 mmol) was dissolved in ethanol (15 mL, IMS grade) and 10% palladium on carbon (100 mg) was added, followed by ammonium formate (1.25 g, 19.8 mmol). The mixture was heated at 90° C. for 45 min, then cooled to room temperature. A further 100 mg palladium on carbon was added and the mixture was heated at 95° C. for 16 h. The mixture was cooled to room temperature then filtered and concentrated under vacuum. The residue was taken up in water and extracted with ethyl acetate (×3). The combined organic extracts were washed with brine then dried (Na2SO4) and concentrated under vacuum to give 928 mg (92%) of trans [4-(2-methanesulfonyl-ethyl)-cyclohexyl]-carbamic acid tert-butyl ester. LCMS (method Q, ESI): RT=3.35 min, m+H=204.1; NMR (400 MHz, CDCl3) δ: 4.36 (br s, 1H), 3.38 (br s, 1H), 3.01 (m, 2H), 2.89 (s, 3H), 2.07-1.98 (m, 2H), 1.82-1.72 (m, 4H), 1.44 (s, 9H), 1.36-1.08 (m, 5H).

reactant | Trans [4-(2-methanesulfonyl-vinyl)-cyclohexyl]-carbamic acid tert-butyl ester | 3.30 mmol, 1.00 g | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)C=CS(=O)(=O)C)=O | C14H25NO4S
reactant | ammonium formate | 19.8 mmol, 1.25 g | C(=O)[O-].[NH4+]
solvent | ethanol | 15 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
product | trans [4-(2-methanesulfonyl-ethyl)-cyclohexyl]-carbamic acid tert-butyl ester | 928 mg, 92% | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)CCS(=O)(=O)C)=O | C14H27NO4S
